US06864240B1
As an example of amine protection by Boc derivitization, statine (9.9 mmole) and triethylamine (9.9 mole) were dissolved in dry dichloromethane and (Boc)2O was added. The reaction was stirred overnight under nitrogen. Workup: the reaction was concentrated on a rotary evaporator and the residue was taken up with ethyl acetate and then washed with water, citric acid, sodium bicarbonate, and brine. The organic solvent was dried over MgSO4 to yield 86% of Boc-statine.

reactant | statine | 9.9 mmole | N[C@@H](CC(C)C)[C@@H](O)CC(O)=O | C8H17NO3
reactant | triethylamine | 9.9 mole | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | Boc-statine | 86% | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)[C@@H](O)CC(O)=O | C13H25NO5
